US04294843
Chloroacetylchloride (2.64 ml, 3.74 g, 3.3×10-2 mol) in benzene (10 ml) was added dropwise to a stirred solution of 2-(2-dimethylaminophenylthio)acetamidoxime (6.75 g, 0.03 mol) and triethylamine (4.17 ml) in benzene (20 ml). The mixture was stirred at ambient temperature for 10 hours then refluxed for 1 hour. The cooled mixture was taken up in ether and 5% aqueous sodium bicarbonate solution. The organic layer was washed with water and saturated aqueous sodium chloride solution dried and evaporated to dryness to give a brown oil. Chromatography on silica gel (135 g), eluting with hexane:ether (3:1) gave 5-(chloromethyl)-3-(2-dimethylaminophenylthiomethyl)-1,2,4-oxadiazole as a colourless oil, nmr δ(CDCl3) 2.78(6H, CH3), 4.20(2H, ,--CH2 --), 4.65 (2H, ,--CH2 --), 6.8-7.4 (4H, m, aromatic hydrogens).

reactant | Chloroacetylchloride | 3.3×10-2 mol, 2.64 ml, 3.74 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-(2-dimethylaminophenylthio)acetamidoxime | 0.03 mol, 6.75 g | CN(C1=C(C=CC=C1)SCC(N)=NO)C | C10H15N3OS
reactant | triethylamine | 4.17 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-(chloromethyl)-3-(2-dimethylaminophenylthiomethyl)-1,2,4-oxadiazole | ClCC1=NC(=NO1)CSC1=C(C=CC=C1)N(C)C | C12H14ClN3OS
